US08492582B2
To a solution mixture of tert-butyl 2-(2-(benzyloxy)-5-(furan-3-yl)benzamido)-4-phenylbenzoate (0.048 g) in methanol (2 mL) and dioxane (2 mL), 10% palladium-carbon (20 mg) was added, followed by stirring under a hydrogen atmosphere at room temperature for 2 hours. The insoluble substrate was removed by filtration, and the solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography [Fuji Silysia Chemical Ltd., PSQ100B (spherical), eluent: 97-85% hexane/ethyl acetate] to obtain 0.027 g of tert-butyl 2-(2-hydroxy-5-(tetrahydrofuran-3-yl)benzamido)-4-phenylbenzoate as a white solid.

reactant | tert-butyl 2-(2-(benzyloxy)-5-(furan-3-yl)benzamido)-4-phenylbenzoate | 0.048 g | C(C1=CC=CC=C1)OC1=C(C(=O)NC2=C(C(=O)OC(C)(C)C)C=CC(=C2)C2=CC=CC=C2)C=C(C=C1)C1=COC=C1 | C35H31NO5
solvent | methanol | 2 mL | CO | CH4O
solvent | dioxane | 2 mL | O1CCOCC1 | C4H8O2
catalyst | palladium-carbon | 20 mg | [C].[Pd]
product | tert-butyl 2-(2-hydroxy-5-(tetrahydrofuran-3-yl)benzamido)-4-phenylbenzoate | 0.027 g | OC1=C(C(=O)NC2=C(C(=O)OC(C)(C)C)C=CC(=C2)C2=CC=CC=C2)C=C(C=C1)C1COCC1 | C28H29NO5
